US08389717B2
a) 4-Methoxy-6-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-[1,3,5]triazine-2-carboxylic acid methyl ester
A solution of (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine (0.35 g, 1.0 mmol) in a mixture of 7 ml methanol and 3.5 ml ethyl acetate was treated with triethylamine (0.21 ml, 1.5 mmol) and tris(dibenzylideneacetone) dipalladium dichloromethane-complex (70 mg, 0.09 mmol). The mixture was transferred to an autoclave, flushed with carbon monoxide and hold 20 hours at 80° C. under a pressure of 5 bar of carbon monoxide. After cooling and evacuating the carbon monoxide, the mixture was concentrated to about 2 ml and diluted again with a mixture of ethyl acetate/methanol 9:1 v/v. The title compound precipitated as an intensely yellow solid after cooling in the refrigerator for 17 hours. Yield=55%.

reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 1.0 mmol, 0.35 g | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | triethylamine | 1.5 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 3.5 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 7 ml | CO | CH4O
catalyst | tris(dibenzylideneacetone) dipalladium dichloromethane | 0.09 mmol, 70 mg | ClCCl.[Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 4-Methoxy-6-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-[1,3,5]triazine-2-carboxylic acid methyl ester | Yield=55% | COC(=O)C1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C17H18N6O4
